US05476846
d) 1-[[2-(2-Hydroxyethyl)phenyl]methyl]cyclopentanecarbonitrile
Obtained by operating as in example 87a, from 7.8 g (77 mmoles) of diisopropylamine, 48.2 ml of a 1.6M solution of n-butyllithium in hexane, 6.7 g (70 mmoles) of commercial cyclopentanecarbonitrile, 18 ml of 1,3-dimethylimidazolidin-2-one and 20.5 g (71.4 mmoles) of the compound prepared in example 92c in 120 ml of tetrahydrofuran. After distillation, there is obtained 8.8 g (yield=55.0%) of a beige viscous liquid. b.p.0.4 =165° C.

reactant | diisopropylamine | 77 mmoles, 7.8 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | cyclopentanecarbonitrile | 70 mmoles, 6.7 g | C1(CCCC1)C#N | C6H9N
reactant | 1,3-dimethylimidazolidin-2-one | 18 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 1-[[2-(2-Hydroxyethyl)phenyl]methyl]cyclopentanecarbonitrile | 8.8 g, yield=55.0% | OCCC1=C(C=CC=C1)CC1(CCCC1)C#N | C15H19NO
